US05665737
h) 7-allyl-5-chloro-2-(3-cyclopentyloxy-4-methoxybenzyl)-benzoxazole
A solution of N-(3-cyclopentyloxy-4-methoxyphenylacetyl)-2-allyloxy-5-chloroaniline (38.1 g, 0.092 mol) in 200 ml of diphenyl ether was heated under nitrogen at 180° for 8 hours. Protracted heating resulted in reduced yields. The reaction mixture was diluted with 500 ml of petroleum ether, applied to a column packed with 500 g of flash chromatography silica gel and eluted with petroleum ether followed by methylene chloride. Fractions of 800 ml were collected. The material from fractions 9-14 weighed 30 g (80% of theoretical). This material was recrystallized from hexane to give 19 g (52%) of the title compound, mp 43°-44° C., which was greater than 98.3% pure by HPLC.

reactant | N-(3-cyclopentyloxy-4-methoxyphenylacetyl)-2-allyloxy-5-chloroaniline | 0.092 mol, 38.1 g | C1(CCCC1)OC=1C=C(C=CC1OC)CC(=O)NC1=C(C=CC(=C1)Cl)OCC=C | C23H26ClNO4
reactant | diphenyl ether | 200 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 7-allyl-5-chloro-2-(3-cyclopentyloxy-4-methoxybenzyl)-benzoxazole | 19 g, 52% | C(C=C)C1=CC(=CC=2N=C(OC21)CC2=CC(=C(C=C2)OC)OC2CCCC2)Cl | C23H24ClNO3
